US07655671B2
Synthesis of (17S)-17-allyl-4,5α-epoxy-3-hydroxy-14β-methoxy-17-methyl-6-oxomorphinanium-iodide (compound 43)
A solution of 14-O-methyloxymorphone (Schmidhammer et al., J. Med. Chem. 1984, 27, pp. 1575-1579) (210 mg, 0.67 mmol) and allyl iodide (0.28 ml, 3.35 mmol) was stirred in 5 ml N,N-dimethylformamide for 7 days at 40° C. (bath temperature) and then evaporated down. The evaporation residue (484 mg of brown oil) was purified using column chromatography (silica gel; CH2Cl2/MeOH (250:5->250:12)). The evaporation residue (134 mg) was again purified using column chromatography (silica gel; CH2Cl2/MeOH (250:4.5)). Evaporation residue 77 mg (27%) of amorphous compound 43. Fp. >140° C.; IR (KBr): 1724 (CO) cm−1; 1H-NMR (DMSO-d6): δ 9.57 (s, C3-OH), 6.68 (s, 2 arom. H), 6.28-6.08 (m, 1 olef. H), 5.75-5.63 (m, 2 olef. H), 4.95 (s, C5-H), 3.42 (s, CH3O), 3.05 (s, +NCH3, equatorial); MS (CI): m/z 356 (M+).

reactant | 14-O-methyloxymorphone | CN1CC[C@]23[C@@H]4C(=O)CC[C@]2([C@H]1CC5=C3C(=C(C=C5)O)O4)OC | C18H21NO4
reactant | allyl iodide | 3.35 mmol, 0.28 ml | C(C=C)I | C3H5I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (17S)-17-allyl-4,5α-epoxy-3-hydroxy-14β-methoxy-17-methyl-6-oxomorphinanium-iodide | [I-].C(C=C)[N@+]1([C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)=O)OC)C | InChI=1S/C21H25NO4.HI/c1-4-10-22(2)11-9-20-17-13-5-6-14(23)18(17)26-19(20)15(24)7-8-21(20,25-3)16(22)12-13;/h4-6,16,19H,1,7-12H2,2-3H3;1H/t16-,19+,20+,21-,22-;/m1./s1
